US06423843B1
1-Benzyloxycarbonyl-4-ethoxycarbonyl-3-methoxyiminopyrrolidine
1-Benzyloxycarbonyl-4-ethoxycarbonyl-3-oxopyrrolidine (196.7 g, 600.0 mmol) was dissolved in pyridine (700 ml) and mixed with O-methylhydroxylamine hydrochloride (76.55 g, 916.5 mmol) under ice-cooling, and the mixture was stirred at the same temperature for 10 minutes and then at room temperature for 5 hours. Pyridine was evaporated under a reduced pressure, the residue was mixed with 1 N hydrochloric acid and ethyl acetate and then the mixture was shaken and subjected to separation of layers. The organic layer was washed with saturated brine, and the water layer was further extracted with ethyl acetate. The organic layers were dried over anhydrous sodium sulfate and filtered, the solvent was evaporated under a reduced pressure and then the residue was purified by a silica gel column chromatography (n-hexane:ethyl acetate=1:1) to obtain 187.5 g (589.1 mmol, 98.2%) of the title compound.

reactant | 1-Benzyloxycarbonyl-4-ethoxycarbonyl-3-oxopyrrolidine | 600.0 mmol, 196.7 g | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)C(=O)OCC)=O | C15H17NO5
reactant | O-methylhydroxylamine hydrochloride | 916.5 mmol, 76.55 g | Cl.CON
solvent | pyridine | 700 ml | N1=CC=CC=C1 | C5H5N
product | 1-Benzyloxycarbonyl-4-ethoxycarbonyl-3-methoxyiminopyrrolidine | 589.1 mmol, 187.5 g, 98.2% | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)C(=O)OCC)=NOC | C16H20N2O5
